US05043345
5.6.A 3-(4-pentyloxy-1,2,5-thiadiazol-3-yl)pyridine
To a solution of sodium (230 mg, 10 mmol) in 1-pentanol (20 ml) was added 3-(4-chloro-1,2,5-thiadiazol 3-yl)pyridine (490 mg, 2.5 mmol). The mixture was stirred at 50° C. for 3 h and evaporated. The residue was dissolved in water and extracted with methylene chloride. The combined organic phases were dried and evaporated to give the wanted compound.

reactant | sodium | 10 mmol, 230 mg | [Na] | Na
reactant | 3-(4-chloro-1,2,5-thiadiazol 3-yl)pyridine | 2.5 mmol, 490 mg | ClC=1C(=NSN1)C=1C=NC=CC1 | C7H4ClN3S
reactant | 1-pentanol | 20 ml | C(CCCC)O | C5H12O
product | 3-(4-pentyloxy-1,2,5-thiadiazol-3-yl)pyridine | C(CCCC)OC=1C(=NSN1)C=1C=NC=CC1 | C12H15N3OS
